US05294734
1.14 g (3.1 mmol) of 5-benzyloxy-4-bromomethyl-2-formylamino-pent-3-enoic acid ethyl ester and 10 ml (38.5 mmol) of triisopropyl phosphite (95%) are heated to 80° C. and stirred under a pressure of approximately 130 mbar for 31/2 hours. The excess triisopropyl phosphite is distilled off and the residue is purified by chromatography on silica gel with ethyl acetate. 5-benzyloxy-4-diisopropylphosphonomethyl-2-formylamino-pent-3-enoic acid ethyl ester is obtained in the form of a yellowish oil.

reactant | 5-benzyloxy-4-bromomethyl-2-formylamino-pent-3-enoic acid ethyl ester | 3.1 mmol, 1.14 g | C(C)OC(C(C=C(COCC1=CC=CC=C1)CBr)NC=O)=O | C16H20BrNO4
reactant | triisopropyl phosphite | 38.5 mmol, 10 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | 5-benzyloxy-4-diisopropylphosphonomethyl-2-formylamino-pent-3-enoic acid ethyl ester | C(C)OC(C(C=C(COCC1=CC=CC=C1)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C22H34NO7P
